US08252831B2
5-(Aminomethyl)-2-chloro-N-(1H-imidazol-2-yl)benzamide dihydrochloride
Dissolve 5-[(tert-butoxycarbonylaminomethyl)-2-chloro-N-(1H-imidazol-2-yl)benzamide (640 mg, 1.82 mmol, 1.0 equiv) in hydrochloric acid (4 M in dioxane, 4.56 mL, 18.24 mmol, 10.0 equiv) and stir at room temperature for 1 h. Pour the reaction mixture into vigorously swirling EtOAc (50 mL), isolate the resulting white precipitate by filtration, wash with EtOAc (25 mL), and dry in a 40° C. vacuum oven overnight to provide the title compound as a white solid (590 mg, 100%). 1H NMR (D2O, 400 MHz) δ 7.53 (d, 1H, J=2.0 Hz), 7.48 (d, 1H, J=8.3 Hz), 7.46 (dd, 1H, J=8.3, 2.0 Hz), 7.04 (s, 2H), 4.05 (s, 2H).

reactant | (tert-butoxycarbonylaminomethyl)-2-chloro-N-(1H-imidazol-2-yl)benzamide | 1.82 mmol, 640 mg, 1.0 equiv | C(C)(C)(C)OC(=O)NCC=1C(=C(C(=O)NC=2NC=CN2)C=CC1)Cl | C16H19ClN4O3
reactant | hydrochloric acid | 18.24 mmol, 4 M, 4.56 mL, 10.0 equiv | Cl | ClH
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 5-(Aminomethyl)-2-chloro-N-(1H-imidazol-2-yl)benzamide dihydrochloride | 590 mg, 100% | Cl.Cl.NCC=1C=CC(=C(C(=O)NC=2NC=CN2)C1)Cl | InChI=1S/C11H11ClN4O.2ClH/c12-9-2-1-7(6-13)5-8(9)10(17)16-11-14-3-4-15-11;;/h1-5H,6,13H2,(H2,14,15,16,17);2*1H
